US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-ethyl-3-methyl-1H-pyrazole-4-carboxamide
To a solution of 1-ethyl-3-methyl-1H-pyrazole-4-carboxylic acid (2.00 g, 13.0 mmol) and N,N-dimethylformamide (3 drops) in tetrahydrofuran (30 mL) was added oxalyl chloride (2.23 mL, 26.0 mmol) with stirring under ice-cooling, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylacetamide (20 mL) with stirring under ice-cooling, N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (3.27 g, 10.0 mmol) was added thereto, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with 1N aqueous sodium hydroxide solution (50 ml) and extracted with a mixed solvent of ethyl acetate/tetrahydrofuran (1:1, 80 mL, 40 mL×2). The organic layer was washed with water (10 mL×3), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→70/30) and crystallized from ethyl acetate to give the title compound (2.39 g, yield 52%) as a white solid. melting point 199° C.

reactant | 1-ethyl-3-methyl-1H-pyrazole-4-carboxylic acid | 13.0 mmol, 2.00 g | C(C)N1N=C(C(=C1)C(=O)O)C | C7H10N2O2
reactant | oxalyl chloride | 26.0 mmol, 2.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 10.0 mmol, 3.27 g | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-ethyl-3-methyl-1H-pyrazole-4-carboxamide | 2.39 g, yield 52% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2C(=NN(C2)CC)C)F)C1 | C23H22FN7O3
